### PR TITLE
feat: add proof of DivRemOfSelect

### PR DESCRIPTION
**Pull request by bollu**
Closes https://github.com/opencompl/ssa/issues/148

### CODE REVIEW

**Comment by bollu** [comment]
the proof state after

```
theorem alive_DivRemOfSelect (w : Nat) : 
  alive_DivRemOfSelect_src w ⊑ alive_DivRemOfSelect_tgt w := by
   unfold alive_DivRemOfSelect_src alive_DivRemOfSelect_tgt
   simp_alive_peephole
```

is not fit for the `apply` of a theorem, as it contains two goals and has failed to revert the context `Γv`.

```
▶ 2 goals
case some.none
w : ℕ
Γv : Ctxt.Valuation
  [InstCombine.MTy.bitvec (ConcreteOrMVar.concrete w), InstCombine.MTy.bitvec (ConcreteOrMVar.concrete w),
    InstCombine.MTy.bitvec (ConcreteOrMVar.concrete 1)]
x0 : BitVec w
⊢ ∀ (v2 : Option (BitVec 1)),
  (match
      match v2 with
      | none => none
      | some { toFin := { val := 1, isLt := _ } } => none
      | some { toFin := { val := 0, isLt := _ } } => some (BitVec.ofInt w 0),
      fun snd =>
      match BitVec.toNat snd with
      | 0 => none
      | x => some (BitVec.ofInt w (↑(BitVec.toNat x0) / ↑(BitVec.toNat snd))) with
    | none, x => none
    | some a, b => b a) ⊑
    none

case some.some
w : ℕ
Γv✝ : Ctxt.Valuation
  [InstCombine.MTy.bitvec (ConcreteOrMVar.concrete w), InstCombine.MTy.bitvec (ConcreteOrMVar.concrete w),
    InstCombine.MTy.bitvec (ConcreteOrMVar.concrete 1)]
v2✝ : Option (BitVec 1)
x0✝ x1✝ : BitVec w
⊢ (match
    match v2✝ with
    | none => none
    | some { toFin := { val := 1, isLt := _ } } => some x1✝
    | some { toFin := { val := 0, isLt := _ } } => some (BitVec.ofInt w 0),
    fun snd =>
    match BitVec.toNat snd with
    | 0 => none
    | x => some (BitVec.ofInt w (↑(BitVec.toNat x0✝) / ↑(BitVec.toNat snd))) with
  | none, x => none
  | some a, b => b a) ⊑
  match BitVec.toNat x1✝ with
  | 0 => none
  | x => some (BitVec.ofInt w (↑(BitVec.toNat x0✝) / ↑(BitVec.toNat x1✝)))

```

Thus, for the purposes of upstreaming the theorem, we write the full proof in the separate file `AliveStatements.lean`.
We leave cleaning up the proof automation to future work, once we have https://github.com/bollu/matchgoal.lean .

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 1]
```diff
@@ -438,6 +443,7 @@ theorem bitvec_1030 :
  ∀ (w : Nat) (X : BitVec w), sdiv? X (-1) ⊑ some (0 - X)
 := by alive_auto
       try sorry
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean:446]: unrelated

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 2]
```diff
@@ -13,6 +13,11 @@ open LLVM
     getLsb (-1#w) ↑i :=
   BitVec.getLsb_negOne ..
 
+@[simp]
+lemma BitVec.ofNat_toNat_zero : 
+BitVec.toNat (BitVec.ofInt w 0) = 0 := 
+  by simp[BitVec.toNat, BitVec.ofInt, BitVec.toFin, BitVec.ofNat, OfNat.ofNat]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean:19]: This was already added to SSA/Projects/InstCombine/AliveAutoGenerated.lean, no?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 3]
```diff
@@ -58,6 +59,78 @@ theorem alive_AddSub_1043  (w : Nat)   : alive_AddSub_1043_src w  ⊑ alive_AddS
...
+      rcases vcond with zero | vcond <;> simp <;>
+      linarith
+    cases hcond'
+    . case inl h => -- have selected 0, so we compute X/0 which is UB.
+      subst h
+      simp
+    . case inr h => -- have selected Y itself, so we compute X/Y.
+      subst h; simp
+      cases' x with vx <;> 
+      cases' y with vy <;> simp
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:133]: This certainly does not belong in an auto-generated file, no?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 4]
```diff
@@ -58,6 +59,78 @@ theorem alive_AddSub_1043  (w : Nat)   : alive_AddSub_1043_src w  ⊑ alive_AddS
...
+  %v2 = "llvm.udiv"(%x, %v1) : (_, _) -> (_)
+  "llvm.return" (%v2) : (_) -> ()
+}]
+
+def alive_DivRemOfSelect_tgt (w : Nat) :=
+[mlir_icom (w)| {
+^bb0(%c: i1, %y : _, %x : _):
+  %v1 = "llvm.udiv" (%x,%y) : (_, _) -> (_)
+  "llvm.return" (%v1) : (_) -> ()
+}]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: I am surprised we add a new statement, instead of proofing one that is already in this file. Why was this not part of the statements that we autogenerated?

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:19]: Btw, is that a lemma that we can propose for std or mathlib?

**Comment by tobiasgrosser** [comment]
Also, can we repase to resolve the merge conflict.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 4 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: The auto translation of select is broken, since select requires propagating the constraints of a variable of width ‘i1’. We do not have a full datafloe analysis in our alive translator, rather a best-effort implementation written by @goens as this was considered an acceptable time to effort trade off at the time.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 3 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:133]: It is unclear where to keep this. The proof state after simp_alive_peephole is not really usable.

We cannot directly have the full theorem statement before elaboration since we do not import the EDSL into AliveStatements.


After elaboration but before simp_alive_peephole, the theorem statement is quite large, and so I chose not to copy that into AliveStatements.lean.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 4 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: Sure, you could still add two theorems into a separate file, such that the changes to the auto-generated file are just two lines, no?

Comment (bollu) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: I did not parse what you wrote. Are you suggesting we have a new file for this test case, as it is hand written? If so, I am happy to do so.

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveStatements.lean:19]: It might be, I have not checked if upstream has it, would be a good idea to check.

Comment (bollu) [reply SSA/Projects/InstCombine/AliveStatements.lean:19]: But upstream would probably like a more general theorem than this one.

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:446]: Can you remove this change?

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:19]: https://github.com/leanprover/std4/blob/main/Std/Data/BitVec/Lemmas.lean#L59C1-L59C1

> theorem toNat_ofNat (x w : Nat) : (BitVec.ofNat w x).toNat = x % 2^w := by

So sth similar exists. It might be useful to think if there is sth to upstream here. Maybe @alexkeizer has some advise.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 4 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: This patch combines two rather unrelated changes:

1) adding a new theorem to AliveAutoGenerated without any explanation where it comes from

2) a proof of this theorem

I would have expected that you just proof a theorem that already existed. Why is this theorem not auto-generated by our alive extractor? Where does this come from, if not from our alive extractor?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 3 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:133]: If this cannot yet be auto-generated, maybe we should keep it in a separate file, e.g., AliveManual.lean? The auto-generated file is supposed to only contain auto-generated content. We added trivial references to external proofs as they started to work, as these were easy to add and could eventually also be auto-generated. Adding large amounts of manual stuff will prevent us from regenerating this file.

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 2 above)
Comment (alexkeizer) [reply SSA/Projects/InstCombine/AliveStatements.lean:19]: First generalization could be `BitVec.toNat (BitVec.ofInt w <| BitVec.ofNat x) = x`, but I'm not sure if `simp` will recognize that `0 : Int` unifies with `BitVec.ofNat 0`. We could also go even further to
```lean
BitVec.toNat (BitVec.ofInt w i) 
= match i with
   | .ofNat x = x
   | .negSucc x = _ // something with modulo or inverses or whatever
```

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean (hunk 4 above)
Comment (goens) [reply SSA/Projects/InstCombine/AliveAutoGenerated.lean:86]: The issue is that we have manual edits to the `AliveStatements` file too, as I mentioned in Zulip. The two don't match because of this, that's why we (@bollu and I) had agreed that we'd re-generate `AliveStatements`. I'm thus also surprised that instead you are adding new theorems to the generated files. We should not be manually editing either of these two

**Comment by goens** [comment]
@bollu As we discussed yesterday, `AliveStatements` is out of sync with `AliveAutoGenerated` (because they have been manually edited instead of being regenarated after changes to the sematics, e.g. in #130). I think we should write these proofs in a separate file as @tobiasgrosser suggests and not modify either of the two files (`AliveAutoGenerated` nor `AliveStatements`) as these *both* are generated from the automated flow from alive.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 5]
```diff
@@ -58,6 +59,78 @@ theorem alive_AddSub_1043  (w : Nat)   : alive_AddSub_1043_src w  ⊑ alive_AddS
...
+ -- | select condition is itself `none`, nothing more to be done. propagate the `none`.
+ . case none => cases x <;> cases y <;> simp
+ . case some cond =>
+    obtain ⟨vcond, hcond⟩ := cond
+    have hcond' : vcond = 1 ∨ vcond = 0 := by 
+      norm_num at hcond
+      rcases vcond with zero | vcond <;> simp <;>
+      rcases vcond with zero | vcond <;> simp <;>
+      linarith
+    cases hcond'
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:126]:
```suggestion
    obtain (h | h) : vcond = 1 ∨ vcond = 0 := by 
      norm_num at hcond
      rcases vcond with zero | vcond <;> simp <;>
      rcases vcond with zero | vcond <;> simp <;>
      linarith
```
Although this could be argued as excessive proof golfing, feel free to ignore

File: SSA/Projects/InstCombine/AliveStatements.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/AliveStatements.lean:446]: This is still not removed. Can you remove it @bollu ?

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 6]
```diff
@@ -58,7 +59,6 @@ theorem alive_AddSub_1043  (w : Nat)   : alive_AddSub_1043_src w  ⊑ alive_AddS
   simp_alive_peephole
   apply bitvec_AddSub_1043
 
-
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:61]: This is unrelated.

File: SSA/Projects/InstCombine/AliveAutoGenerated.lean [hunk 7]
```diff
@@ -3,6 +3,7 @@ import SSA.Projects.InstCombine.LLVM.EDSL
 import SSA.Projects.InstCombine.AliveStatements
 import SSA.Projects.InstCombine.Refinement
 import SSA.Projects.InstCombine.Tactic
+import Mathlib.Tactic.Cases
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveAutoGenerated.lean:6]: This is unrelated.

**Comment by bollu** [comment]
The PR is now consistent and ready to be merged.

File: SSA/Projects/InstCombine/AliveHandwrittenExamples.lean [hunk 8]
```diff
@@ -1,40 +1,81 @@
...
+    LLVM.sshr, LLVM.lshr?, LLVM.ashr?, LLVM.shl?, LLVM.select?,
+    LLVM.const?, LLVM.icmp?,
+    HVector.toTuple, List.nthLe, bitvec_minus_one]
+  intro y x c
+  simp [Option.bind, bind, Monad.toBind]
+  clear Γv
+  cases c
+  -- | select condition is itself `none`, nothing more to be done. propagate the `none`.
+  . case none => cases x <;> cases y <;> simp
+  . case some cond =>
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:68]: Use both the `.` and `case none` seems weird, presumably just `case none =>` works, too?

File: SSA/Projects/InstCombine/AliveHandwrittenExamples.lean [hunk 9]
```diff
@@ -1,40 +1,81 @@
...
+    InstCombine.Op.denote, HVector.toPair, HVector.toTriple, pairMapM, BitVec.Refinement,
+    bind, Option.bind, pure, DerivedCtxt.ofCtxt, DerivedCtxt.snoc,
+    Ctxt.snoc, ConcreteOrMVar.instantiate, Vector.get, HVector.toSingle,
+    LLVM.and?, LLVM.or?, LLVM.xor?, LLVM.add?, LLVM.sub?,
+    LLVM.mul?, LLVM.udiv?, LLVM.sdiv?, LLVM.urem?, LLVM.srem?,
+    LLVM.sshr, LLVM.lshr?, LLVM.ashr?, LLVM.shl?, LLVM.select?,
+    LLVM.const?, LLVM.icmp?,
+    HVector.toTuple, List.nthLe, bitvec_minus_one]
+  intro y x c
+  simp [Option.bind, bind, Monad.toBind]
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:63]: non-terminal simp, should be squeezed

File: SSA/Projects/InstCombine/AliveHandwrittenExamples.lean [hunk 10]
```diff
@@ -1,40 +1,81 @@
...
+  simp_peephole at Γv
+  simp (config := {decide := false}) only [OpDenote.denote,
+    InstCombine.Op.denote, HVector.toPair, HVector.toTriple, pairMapM, BitVec.Refinement,
+    bind, Option.bind, pure, DerivedCtxt.ofCtxt, DerivedCtxt.snoc,
+    Ctxt.snoc, ConcreteOrMVar.instantiate, Vector.get, HVector.toSingle,
+    LLVM.and?, LLVM.or?, LLVM.xor?, LLVM.add?, LLVM.sub?,
+    LLVM.mul?, LLVM.udiv?, LLVM.sdiv?, LLVM.urem?, LLVM.srem?,
+    LLVM.sshr, LLVM.lshr?, LLVM.ashr?, LLVM.shl?, LLVM.select?,
+    LLVM.const?, LLVM.icmp?,
+    HVector.toTuple, List.nthLe, bitvec_minus_one]
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:61]: Can these simp-lemmas be passed to `simp_peephole`? Do we want them to?

Comment (bollu) [reply SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:61]: If we like, they should probably be part of `simp_alive_peephole`, but as seen, this is fairly brittle :(

File: SSA/Projects/InstCombine/AliveHandwrittenExamples.lean (hunk 8 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:68]: fixed.

File: SSA/Projects/InstCombine/AliveHandwrittenExamples.lean (hunk 9 above)
Comment (bollu) [reply SSA/Projects/InstCombine/AliveHandwrittenExamples.lean:63]: done.

**Comment by alexkeizer** [comment]
LGTM, feel free to merge once CI is happy
